US05932595
This compound, (R)-N-tert-butoxy-2-dimethylamino-3-(4-phenoxyphenylsulfonyl)-propionamide, was dissolved in 1,2-dichloroethane (50 ml), cooled to -30° C. and bubbled for 15-20 minutes with hydrochloric acid gas in a pressure tube. The flask was then sealed and the mixture stirred overnight. After cooling the tube was cautiously vented and its contents evaporated, to yield a gum, which upon trituration with 2:1 hexane/ethyl acetate gave a white powder, (R)-2-dimethylamino-N-hydroxy-3-(4-phenoxyphenylsulfonyl)-propionamide hydrochloride (0.43 g), m.p. 65-70° C.

reactant | (R)-N-tert-butoxy-2-dimethylamino-3-(4-phenoxyphenylsulfonyl)-propionamide | C(C)(C)(C)ONC([C@H](CS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)N(C)C)=O | C21H28N2O5S
reactant | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | (R)-2-dimethylamino-N-hydroxy-3-(4-phenoxyphenylsulfonyl)-propionamide hydrochloride | 0.43 g | Cl.CN([C@H](C(=O)NO)CS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)C | InChI=1S/C17H20N2O5S.ClH/c1-19(2)16(17(20)18-21)12-25(22,23)15-10-8-14(9-11-15)24-13-6-4-3-5-7-13;/h3-11,16,21H,12H2,1-2H3,(H,18,20);1H/t16-;/m0./s1
